US05175157
e) N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-hydroxymethylpyrrolidine
3 g (0.03 mol) of 3-hydroxymethyl-pyrrolidine and 7.5 g of 2-(3,4-dimethoxy-phenyl)-ethylbromide are heated in 20 ml of triethylamine for 7 hours at 100° C. The excess triethylamine is then distilled off in vacuo and the residue obtained is dissolved in methylene chloride and 6 molar sodium hydroxide solution. The organic phase is separated off, dried over magnesium sulphate and concentrated by evaporation in vacuo. The residue obtained is then purified over 400 g of alumium oxide (neutral, activity II) with methylene chloride and with increasing amounts of ethanol (up to 1%). Yield: 5.4 g (67.8% of theory), Rf value: 0.41 (aluminium oxide, neutral, eluant: 5% ethanol in methylene chloride).

reactant | 3-hydroxymethyl-pyrrolidine | 0.03 mol, 3 g | OCC1CNCC1 | C5H11NO
reactant | 2-(3,4-dimethoxy-phenyl)-ethylbromide | 7.5 g | COC=1C=C(C=CC1OC)CCBr | C10H13BrO2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 6 molar | [OH-].[Na+]
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-hydroxymethylpyrrolidine | COC=1C=C(C=CC1OC)CCN1CC(CC1)CO | C15H23NO3
